US04511391
(i)(b) 1-(3,4-Ethylenedioxyphenyl)but-1-en-3-one was prepared from 3,4-ethylenedioxybenzaldehyde and acetone following essentially the same procedure as that described in Example 1 part (i). The product was obtained as a crystalline solid, mp 80° C.

reactant | 3,4-ethylenedioxybenzaldehyde | C1OC=2C=C(C=O)C=CC2OC1 | C9H8O3
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3,4-Ethylenedioxyphenyl)but-1-en-3-one | C1OC=2C=C(C=CC2OC1)C=CC(C)=O | C12H12O3
